*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X7S(-55to125[deg])/1.00e+00[uF]/16[V]
* Murata P/N :GRM155C71C105ME11
* Property : C = 1.00e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155C71C105ME11 Port1 Port2
C01 Port1 N01 7.55e-07
R01 Port1 N01 5.00e+07
L02 N01 N02 1.31e-10
R03 N02 N03 8.30e-03
C04 N03 N04 3.31e-05
R04 N03 N04 2.85e+01
C05 N04 N05 3.57e-05
R05 N04 N05 2.99e+00
C06 N05 N06 3.30e-05
R06 N05 N06 4.23e-01
C07 N06 N07 2.58e-05
R07 N06 N07 6.71e-02
C08 N07 N08 2.15e-05
R08 N07 N08 1.15e-02
L09 N08 N09 6.38e-11
R09 N08 N09 7.97e+00
L10 N09 N10 3.57e-11
R10 N09 N10 1.37e-01
L11 N10 N11 1.37e-10
R11 N10 N11 3.32e-02
C12 N11 N12 1.01e-05
L12 N11 N12 8.05e-12
R12 N11 N12 2.31e-03
C13 N12 Port2 8.63e-07
L13 N12 Port2 5.06e-11
R13 N12 Port2 8.23e-03
.ENDS GRM155C71C105ME11
